US04614798
To a suspension of 2.5 g (0.05 mol) of sodium hydride in a mixture of 40 ml of dry-dimethylacetamide and 40 ml of dry benzene, 0.05 mole of N-(2,6-dimethylphenyl)acetamide was added. After evolution of hydrogen ceased, the mixture was cooled in ice and water, and with stirring 0.075 mole of carbon disulfide was added slowly. The mixture was stirred at room temperature for 20 minutes. The reaction mixture was poured into water and extracted with toluene. The organic layer, dried over sodium sulfate, was evaporated, and distillation of the residue yielded 6.1 g (74%) of 2,6-dimethylphenylisothiocyanate.

reactant | sodium hydride | 0.05 mol, 2.5 g | [H-].[Na+]
reactant | N-(2,6-dimethylphenyl)acetamide | 0.05 mole | CC1=C(C(=CC=C1)C)NC(C)=O | C10H13NO
reactant | hydrogen | [H][H] | H2
reactant | carbon disulfide | 0.075 mole | C(=S)=S | CS2
solvent | water | O | H2O
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 2,6-dimethylphenylisothiocyanate | 6.1 g, 74% | CC1=C(C(=CC=C1)C)N=C=S | C9H9NS
